US06878742B2
B. N-[(S)-2-Ethyl-1-(hydroxymethyl)butyl]thiophene-2-sulfonamide
To a stirred mixture of anhydrous acetonitrile (6 mL) and N-[(1S)-2-ethyl-1-(hydroxymethyl)butyl]-5-(trimethylstannyl)thiophene-2-sulfonamide (0.24 g, 0.56 mmol) was added Selectfluor (Aldrich) (0.204 g, 0.57 mmol) all at once. The mixture was heated to 75° C. under a nitrogen atmosphere, stirred 16 h and then cooled to 25° C. and filtered. Evaporation of the solvent produced a crude solid that was taken up in ethyl acetate and again filtered to remove insoluble solids. Evaporation of the remaining solvent produced an oil that was purified by flash chromatography using hexane-ethyl acetate 2-1 as eluant, producing the title compound as the major product (0.051 g, 33%). MS (−ESI) 276.20 ([M−H]−).

reactant | acetonitrile | 6 mL | C(C)#N | C2H3N
reactant | N-[(1S)-2-ethyl-1-(hydroxymethyl)butyl]-5-(trimethylstannyl)thiophene-2-sulfonamide | 0.56 mmol, 0.24 g | C(C)C([C@@H](CO)NS(=O)(=O)C=1SC(=CC1)[Sn](C)(C)C)CC
reactant | Selectfluor | 0.57 mmol, 0.204 g | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[(S)-2-Ethyl-1-(hydroxymethyl)butyl]thiophene-2-sulfonamide | C(C)C([C@@H](CO)NS(=O)(=O)C=1SC=CC1)CC | C11H19NO3S2
